US05097032
A suspension of 3.02 g (10 mmole) of 1-ethyl-5-amino-6,7,8-trifluoro-4-oxo-1,4-dihydro quinoline-3-carboxylic acid, 2.79 g (15 mmole) of 3-(t-butoxycarbonylamino)pyrrolidine, 3.0 g (30 mmole) of triethylamine and 100 ml of acetonitrile is refluxed for 18 hours. The reaction mixture is cooled to room temperature and the precipitate is removed by filtration, washed with acetonitrile, ether, and dried in vacuo to give 1-ethyl-5-amino-6,8-difluoro-7-[3-(t-butoxycarbonylamino)-1-pyrrolidinyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid.

reactant | 1-ethyl-5-amino-6,7,8-trifluoro-4-oxo-1,4-dihydro quinoline-3-carboxylic acid | 10 mmole, 3.02 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C12H9F3N2O3
reactant | 3-(t-butoxycarbonylamino)pyrrolidine | 15 mmole, 2.79 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 30 mmole, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-ethyl-5-amino-6,8-difluoro-7-[3-(t-butoxycarbonylamino)-1-pyrrolidinyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)NC(=O)OC(C)(C)C)F)N)=O)C(=O)O | C21H26F2N4O5
